US04163849
6-chloro-2-(4-cyclopropyl-1-piperazinyl)-pyrazine hydrochloride
Crude N-cyclopropylpiperazine (2.8 g) and 2,6-dichloropyrazine (3.0 g) are combined in 5 ml 2,2,2-trifluoroethanol and the mixture refluxed 4 hours under N2. The mixture is concentrated under vacuum and the residue partitioned between aqueous sodium carbonate and methylene chloride. The combined methylene chloride extracts are extracted with dilute hydrochloric acid which is made basic with sodium hydroxide. The crude base is extracted with methylene chloride and chromatographed on silica gel. Elution with CHCl3 gives fractions containing 2.4 g pure title base which is treated with hydrogen chloride in ethanol-isopropanol to give 2.0 g of the title salt, mp greater than 340° C. with decomposition at 245° C.

reactant | N-cyclopropylpiperazine | 2.8 g | C1(CC1)N1CCNCC1 | C7H14N2
reactant | 2,6-dichloropyrazine | 3.0 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | hydrogen chloride | Cl | ClH
solvent | 2,2,2-trifluoroethanol | 5 ml | FC(CO)(F)F | C2H3F3O
solvent | ethanol isopropanol | C(C)O.C(C)(C)O
product | 6-chloro-2-(4-cyclopropyl-1-piperazinyl)-pyrazine hydrochloride | 2.0 g | Cl.ClC1=CN=CC(=N1)N1CCN(CC1)C1CC1 | InChI=1S/C11H15ClN4.ClH/c12-10-7-13-8-11(14-10)16-5-3-15(4-6-16)9-1-2-9;/h7-9H,1-6H2;1H
